US07842694B2
3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3R)-tetrahydrofuran-3-yloxy]benzamide
A mixture of 3-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3R)-tetrahydrofuran-3-yloxy]benzamide (150 mg, 0.49 mmol), 2-(azetidin-1-ylcarbonyl)-5-bromopyridine (120 mg, 0.49 mmol), bromotris(triphenylphosphine)copper (92 mg, 0.10 mmol) and caesium carbonate (484 mg, 1.48 mmol) in acetonitrile (7 mL) was stirred in a microwave reactor at 160° C. for 6 hours. The solid was filtered off, the solvent was removed in vacuo and ethyl acetate (50 mL) added to the residue. The organic phase was washed with water (10 mL), brine (20 mL), dried (MgSO4), filtered and the solvent removed in vacuo. The residue was chromatographed on silica, eluting with a gradient of 0-10% methanol in DCM, to give the title compound as a white solid (86 mg). 1H NMR δ (CDCl3): 2.10-2.17 (m, 1H), 2.19-2.25 (m, 1H), 2.32-2.38 (m, 2H), 3.76 (s, 3H), 3.87-3.92 (m, 1H), 3.95-4.01 (m, 3H), 4.24 (t, 2H), 4.71 (t, 2H), 4.97 (t, 1H), 6.73 (t, 1H), 6.81 (s, 1H), 7.11 (s, 1H), 7.24 (s, 1H), 7.27-7.30 (m, 1H), 7.36-7.39 (m, 1H), 8.12 (d, 1H), 8.31 (d, 1H), 8.72 (s, 1H); m/z 464 (M+H)+.

reactant | 3-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3R)-tetrahydrofuran-3-yloxy]benzamide | 0.49 mmol, 150 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H]1COCC1 | C15H17N3O4
reactant | 2-(azetidin-1-ylcarbonyl)-5-bromopyridine | 0.49 mmol, 120 mg | N1(CCC1)C(=O)C1=NC=C(C=C1)Br | C9H9BrN2O
reactant | caesium carbonate | 1.48 mmol, 484 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3R)-tetrahydrofuran-3-yloxy]benzamide | 86 mg | N1(CCC1)C(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H]1COCC1 | C24H25N5O5
